US09238639B2
((6-((2,4-Dichlorobenzyl)oxy)-1-benzothiophen-3-yl)oxy)acetic acid
The mixture of 3-(carboxymethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylic acid (92.0 mg), copper (13.7 mg) and quinoline (1.5 mL) was heated at 190° C. for 10 min. The mixture was diluted with EtOAc. The mixture was washed successively with 1N HCl and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane), and washed with hexane to give the title compound (63.9 mg).

reactant | 3-(carboxymethoxy)-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxylic acid | 92.0 mg | C(=O)(O)COC1=C(SC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C(=O)O | C18H12Cl2O6S
reactant | quinoline | 1.5 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper | 13.7 mg | [Cu] | Cu
product | ((6-((2,4-Dichlorobenzyl)oxy)-1-benzothiophen-3-yl)oxy)acetic acid | 63.9 mg | ClC1=C(COC2=CC3=C(C(=CS3)OCC(=O)O)C=C2)C=CC(=C1)Cl | C17H12Cl2O4S
